US05864039
Aluminum chloride (1.3 g) was added to a solution of 6-bromohexanoyl chloride (2 g) in toluene (20 ml) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. Ice water and conc. hydrochloric acid were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried and the solvent was evaporated under reduced pressure to give 2.76 g of 6-bromo-1-(4-methylphenyl)-1-hexanone.

reactant | Aluminum chloride | 1.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 6-bromohexanoyl chloride | 2 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | hydrochloric acid | Cl | ClH
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-1-(4-methylphenyl)-1-hexanone | 2.76 g | BrCCCCCC(=O)C1=CC=C(C=C1)C | C13H17BrO
